US08685974B2
To a solution of 4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]pyridin-2-amine (1 eq, 0.31 mmol) and triethylamine (4 eq, 1.3 mmol) in 3 mL THF was added acetyl chloride (2.1 eq, 0.66 mmol). The mixture was then stirred at room temperature for 30 min. Acetyl chloride (1 eq, 0.31 mmol) and triethylamine (2 eq, 0.62 mmol) were then added and the mixture was stirred for 1 h. The solvent was evaporated and the residue was purified by chromatography on silica gel (heptane:ethyl acetate 5:1 to 1:2) to afford 114 mg of N-acetyl-N-{4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]pyridin-2-yl}acetamide (81% yield).

reactant | 4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]pyridin-2-amine | 0.31 mmol, 1 eq | ClC1=CC=C(S1)C1=NN(C=C1C1=CC(=NC=C1)N)C(C)C | C15H15ClN4S
reactant | triethylamine | 1.3 mmol, 4 eq | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.66 mmol, 2.1 eq | C(C)(=O)Cl | C2H3ClO
reactant | Acetyl chloride | 0.31 mmol, 1 eq | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.62 mmol, 2 eq | C(C)N(CC)CC | C6H15N
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | N-acetyl-N-{4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]pyridin-2-yl}acetamide | 114 mg, 81% yield | C(C)(=O)N(C(C)=O)C1=NC=CC(=C1)C=1C(=NN(C1)C(C)C)C=1SC(=CC1)Cl | C19H19ClN4O2S
